US05585378
5'-Cyclohexyl-spiro[1,3-dioxolane-2,3'-[3H]-indol]-2'(1'H)-one
5-Cyclohexyl-1H-indole-2,3-dione (1 equivalent), ethane-1,2-diol (5 equivalents) and p-toluenesulphonic acid (0.02 equivalents) in dry toluene were heated under reflux overnight with azeotropic removal of water. The reaction mixture was cooled, washed with saturated sodium bicarbonate solution, and then worked up in the usual manner to afford the title compound.

reactant | 5-Cyclohexyl-1H-indole-2,3-dione | 1 equivalent | C1(CCCCC1)C=1C=C2C(C(NC2=CC1)=O)=O | C14H15NO2
reactant | ethane-1,2-diol | 5 equivalents | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 0.02 equivalents | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5'-Cyclohexyl-spiro[1,3-dioxolane-2,3'-[3H]-indol]-2'(1'H)-one | C1(CCCCC1)C=1C=C2C3(C(NC2=CC1)=O)OCCO3 | C16H19NO3
